US05608056
Under nitrogen atmosphere to a solution of 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl }-1-(pyrimidin-5-yl)-1-chloromethane (37.4 g) in toluene (750 ml) were added firstly tributyltin hydride (29.1 g) and secondly azoisobutyronitrile (0.45 g) at room temperature. After the reaction mixture was stirred at 80° C. for two hours, it was cooled and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (400 g) (solvent; hexane:ethyl acetate=4:1 to 2:1 to 1:2) to give (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(pyrimidin-5-ylmethyl) pyrrolidine (29.1 g) as an oil.

reactant | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-pyrrolidin-2-yl }-1-(pyrimidin-5-yl)-1-chloromethane | 37.4 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(Cl)C=1C=NC=NC1 | C19H30ClN3O3Si
reactant | tributyltin hydride | 29.1 g | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,4R)-1-allyloxycarbonyl-4-t-butyldimethylsilyloxy-2-(pyrimidin-5-ylmethyl) pyrrolidine | 29.1 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC=1C=NC=NC1 | C19H31N3O3Si
